US03946019
A solution of 3-aminooxypropionic acid hydrochloride (12 g.) in water (36 cc.) is added to a stirred boiling solution of 7H-indolizino[5,6,7-ij]isoquinolin-7-one (12 g.) in ethanol (360 cc.) and pyridine (6.64 g.). Boiling is maintained for 3 hours 10 minutes. After cooling, the yellow crystals obtained are filtered off and then washed with 90% ethanol, with absolute ethanol and finally with diethyl ether. After drying, 7-(2-carboxyethoxyimino)-7H-indolizino[5,6,7-ij]isoquinoline (12.59 g.), melting at 250° C. with decomposition, is obtained.

reactant | 3-aminooxypropionic acid hydrochloride | 12 g | Cl.NOCCC(=O)O
reactant | 7H-indolizino[5,6,7-ij]isoquinolin-7-one | 12 g | C1=CC=C2C=CN=C3C2=C1N1C=CC=C1C3=O | C14H8N2O
solvent | water | 36 cc | O | H2O
solvent | ethanol | 360 cc | C(C)O | C2H6O
solvent | pyridine | 6.64 g | N1=CC=CC=C1 | C5H5N
product | 7-(2-carboxyethoxyimino)-7H-indolizino[5,6,7-ij]isoquinoline | 12.59 g | C(=O)(O)CCON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C17H13N3O3
